US07666864B2
Step 1: tert-Butyl 4-[5-(4-{(5S)-5-[(acetylamino)methyl]-2-oxo-1,3-oxazolidin-3-yl}-2-fluorophenyl)-2-pyridinyl]-1-piperazinecarboxylate.
A mixture of tert-Butyl 4-(5-bromo-2-pyridinyl)-1-piperazinecarboxylate (0.203 g, 0.593 mmol) and N-({(5S)-3-[3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide (0.270 g, 0.714 mmol) in dmf (4 mL), EtOH (1.5 mL), toluene (2.5 mL) and K2CO3 (1 mL, 2 M, 2 mmol) was purged with nitrogen. PdCl2(dppf) (24 mg, 0.03 mmol) was added and the mixture was heated to 90° C. under nitrogen for 1 h, then partitioned between EtOAc and water. Column chromatography (EtOAc) gave the titled compound (0.210 g, 69%) as a white solid. APCI MS m/z 514 (M+H). 1H NMR (400 MHz, DMSO-d6) δ 8.32 (bs, 1H), 8.27 (t, J=5.9 Hz, 1H), 7.75 (ddd, J=8.9, 2.4, 1.7 Hz, 1H), 7.53-7.60 (m, 2H), 7.38 (dd, J=8.6, 2.2 Hz, 1H), 6.94 (d, J=8.9 Hz, 1H), 4.72-4.79 (m, 1H), 4.15 (t, J=9.1 Hz, 1H), 3.77 (dd, J=9.2, 6.5 Hz, 1H), 3.52-3.57 (m, 4H), 3.40-3.46 (m, 6H), 1.84 (s, 3H), 1.43 (s, 9H).

reactant | tert-Butyl 4-(5-bromo-2-pyridinyl)-1-piperazinecarboxylate | 0.593 mmol, 0.203 g | BrC=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H20BrN3O2
reactant | N-({(5S)-3-[3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide | 0.714 mmol, 0.270 g | FC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)N1C(O[C@H](C1)CNC(C)=O)=O | C18H24BFN2O5
reactant | EtOH | 1.5 mL | CCO | C2H6O
reactant | K2CO3 | 2 mmol, 2 M, 1 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | PdCl2(dppf) | 0.03 mmol, 24 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 4-[5-(4-{(5S)-5-[(acetylamino)methyl]-2-oxo-1,3-oxazolidin-3-yl}-2-fluorophenyl)-2-pyridinyl]-1-piperazinecarboxylate | 0.210 g, 69% | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)F | C26H32FN5O5
